US07691902B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(3-bromo-4-methylphenyl)cyclopropanecarboxamide (B-8) (5.1 g, 14 mmol), 4-boronobenzoic acid (3.4 g, 20 mmol), 1 M K2CO3 (54 mL, 54 mmol), Pd-FibreCat 1007 (810 mg, 1.35 mmol), and DMF (135 mL) were combined. The mixture was heated at 80° C. for 3 h. After cooling, the mixture was filtered and DMF was removed in vacuo. The residue was partitioned between dichloromethane (250 mL) and 1N HCl (250 mL). The organics were separated, washed with saturated NaCl solution (250 mL), and dried over Na2SO4. Evaporation of organics yielded 4-[5-(1-benzo[1,3]dioxol-5-ylcyclopropyl)carbonylamino-2-methyl-phenyl]benzoic acid (5.5 g, 98%). ESI-MS m/z calc. 415.1, found 416.5 (M+1)+; Retention time 3.19 minutes. 1H NMR (400 MHz, DMSO-d6) δ 13.06 (s, 1H), 8.83 (s, 1H), 8.06-8.04 (m, 2H), 7.58-7.56 (m, 1H), 7.50-7.48 (m, 3H), 7.27-7.24 (m, 1H), 7.05-7.04 (m, 1H), 6.98-6.94 (m, 2H), 6.07 (s, 2H), 2.22 (s, 3H), 1.46-1.44 (m, 2H), 1.12-1.09 (m, 2H).

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(3-bromo-4-methylphenyl)cyclopropanecarboxamide | 14 mmol, 5.1 g | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC(=C(C=C2)C)Br | C18H16BrNO3
reactant | 4-boronobenzoic acid | 20 mmol, 3.4 g | B(O)(O)C1=CC=C(C(=O)O)C=C1 | C7H7BO4
reactant | K2CO3 | 54 mmol, 1 M, 54 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 135 mL | CN(C)C=O | C3H7NO
product | 4-[5-(1-benzo[1,3]dioxol-5-ylcyclopropyl)carbonylamino-2-methyl-phenyl]benzoic acid | 5.5 g, 98% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=CC(=C(C2)C2=CC=C(C(=O)O)C=C2)C | C25H21NO5
